US04200628
To a solution of 2.36 g (17.7 mmoles) of N-chlorosuccinimide in 40 ml of dry toluene is added 1.77 ml (24.2 mmoles) of dimethyl sulfide, and the mixture is stirred at the same temperature for 25 minutes and cooled to -25° C. to -30° C. A solution of 3 g (11.8 mmoles) of 1-diphenylmethyl-2-hydroxymethylazetidine in 8 ml of toluene is dropwise added thereto in a period of 20 minutes and the mixture is stirred at the same temperature for 2 hours. A solution of 2.5 ml (11.8 mmoles) of triethylamine in 2 ml of toluene is dropwise added thereto in a period of 15 minutes. The reaction mixture is stirred at -25° C. for 30 minutes, mixed with 120 ml of ether, stirred at room temperature for 5 minutes, washed twice with 50 ml of water, dried over sodium sulfate and evaporated under reduced pressure. The resulting syrupy residue (3.2 g) is dissolved in 50 ml of methylene chloride and extracted four times with 20 (w/w) % aqueous sodium hydrogensulfite solution. The extract is washed with 20 ml of methylene chloride, adjusted to pH 10 with 20% aqueous sodium carbonate solution, and extracted four times with 50 ml of methylene chloride. The extract is washed with water, dried over sodium sulfate and evaporated under reduced pressure. The resulting syrupy residue (2.1 g) is recrystallized from a mixture of n-hexane and ether to yield 2 g of 1-diphenylmethyl-2-formylazetidine in 67% yield.

reactant | N-chlorosuccinimide | 17.7 mmoles, 2.36 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl sulfide | 24.2 mmoles, 1.77 ml | CSC | C2H6S
reactant | 1-diphenylmethyl-2-hydroxymethylazetidine | 11.8 mmoles, 3 g | C1(=CC=CC=C1)C(N1C(CC1)CO)C1=CC=CC=C1 | C17H19NO
reactant | triethylamine | 11.8 mmoles, 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 120 ml | CCOCC | C4H10O
product | 1-diphenylmethyl-2-formylazetidine | 2 g, 67% yield | C1(=CC=CC=C1)C(N1C(CC1)C=O)C1=CC=CC=C1 | C17H17NO
